Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
rectal bleeding after recent polypectomy 
 
Major Surgical or Invasive Procedure:
Colonoscopy

 
History of Present Illness:
Mr. ___ is a ___ year-old male with pmh of depression who 
was sent in from the outpatient GI suite due to rectal bleeding 
s/p recent polypectomy. He had underwent a colonoscopy with 
polypectomy on ___. The day prior to admission he notice bright 
bleed per his rectum. He had multiple episodes of loose stool 
with bright red blood mixed in. He went in for a sigmoidoscopy, 
however he was noted to have a poor prep with a large amount of 
blood and stool present. He was sent to the ED for admission for 
observation and plan for colonscopy tomorrow. Denies feeling 
lightheaded or dizzy. No fevers, abdominal pain, N/V, or 
shortness of breath. No black stool.  
.  
In the ED, initial VS were: T 98.6 HR 80 BP 134/92 RR 18 Sat 
100%. He had pinkish stool on rectal exam, but no large active 
ongoing bleed. Hct was 38.  
.  
Currently he states his last bowel movement was about 4 hours 
ago. He denies pain or other symptoms currently.  

 
Past Medical History:
Depression  
Seasonal allergies  
Hyperlipidemia  

 
Social History:
___
Family History:
No family history of bleeding disorders. 
 
Physical Exam:
Vitals: T: 96.1 BP: 127/84 P: 58 R: 12 O2: 97% on RA  
General: Middle-aged male lying in bed in NAD  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: +BS, soft NTND, no hepatosplenomegaly  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: Alert and appropriate  

 
Pertinent Results:
___ 06:35PM   GLUCOSE-104* UREA N-20 CREAT-0.9 SODIUM-140 
POTASSIUM-4.0 CHLORIDE-105 TOTAL CO2-26 ANION GAP-13
___ 06:35PM   WBC-9.2 RBC-4.69 HGB-13.0* HCT-38.0* MCV-81* 
MCH-27.8 MCHC-34.3 RDW-13.8
___ 06:35PM   PLT COUNT-208
Colonoscopy ___

Findings:  
 Mucosa: Normal mucosa was noted.  
 Other At about 25 cm, the polypectomy site was identified. 
There was an adherent clot over the site but no active bleeding 
was noted. 3 clips were applied to the site. The site was 
inspected after application of clips and no bleed was noted.   

Impression: At about 25 cm, the polypectomy site was identified. 
There was an adherent clot over the site but no active bleeding 
was noted. 3 clips were applied to the site. The site was 
inspected after application of clips and no bleed was noted.
Normal mucosa in the colon
Otherwise normal colonoscopy to cecum 

 
Brief Hospital Course:
Patient underwent prep and colonoscopy the next day revealed 
clot at site of polypectomy which was clipped times 3. Patient 
had no bleeding in house. Instructed to stay on soft diet and 
advance to regular the following day. No other complications.
 
Medications on Admission:
Fluoxetine 40 mg po daily  
Loratadine  
Simvastatin (unknown dose)  
MVI  

 
Discharge Medications:
1. Fluoxetine 20 mg Capsule Sig: Two (2) Capsule PO DAILY 
(Daily).  
2. Multivitamin     Tablet Sig: One (1) Tablet PO once a day.  
3. Simvastatin 10 mg Tablet Sig: One (1) Tablet PO once a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Polypectomy bleed

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for colonoscopy after you had a bleeding 
complication from your prior colonoscopy 2 days earlier. The 
repeat colonoscopy done today showed a clot at the site where 
your polyp was removed. Three clips were placed and no other 
sites of bleeding were found. You are to stay on a SOFT diet 
today (mashed potatos etc) and then can have a regular diet 
starting tomorrow.
 
Followup Instructions:
___